US06936608B2
4-(5-Bromo-2-fluorophenyl)pyridazine (1.0 g, 3.95 mmol) was reacted with bis(neopentyl glycolato)diboron (982 mg, 4.35 mmol) using the method of Example 20 to give 4-fluoro-3-(pyridazin-4-yl)phenylboronic acid: MS (ES+) m/z 219 [M+H]+.

reactant | 4-(5-Bromo-2-fluorophenyl)pyridazine | 3.95 mmol, 1.0 g | BrC=1C=CC(=C(C1)C1=CN=NC=C1)F | C10H6BrFN2
reactant | bis(neopentyl glycolato)diboron | 4.35 mmol, 982 mg | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
product | 4-fluoro-3-(pyridazin-4-yl)phenylboronic acid | FC1=C(C=C(C=C1)B(O)O)C1=CN=NC=C1 | C10H8BFN2O2
